US07683160B2
1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1-hydroxycarbonyl-cyclopent-1-yloxy)-benzyl]-benzene
A solution of 1-chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1-methoxycarbonyl-cyclopent-1-yloxy)-benzyl]-benzene (0.20 g) in aqueous potassium hydroxide solution (4 mol/l, 5 mL) and methanol (5 mL) is stirred at ambient temperature for 4 h. After neutralizing with aqueous hydrochloric acid (1 mol/l), the mixture is concentrated under reduced pressure, diluted with aqueous NaHCO3 solution and extracted with ethyl acetate. The combined organic phases are dried (Na2SO4), the solvent is removed and the residue is purified by chromatography on silica gel (dichloromethane/methanol 1:0→4:1).

reactant | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1-methoxycarbonyl-cyclopent-1-yloxy)-benzyl]-benzene | 0.20 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OC1(CCCC1)C(=O)OC | C26H31ClO9
reactant | hydrochloric acid | 1 mol/l | Cl | ClH
solvent | potassium hydroxide | 4 mol/l, 5 mL | [OH-].[K+]
solvent | methanol | 5 mL | CO | CH4O
product | 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(1-hydroxycarbonyl-cyclopent-1-yloxy)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OC1(CCCC1)C(=O)O | C25H29ClO9
